US08026257B2
(6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-4-yl)methanol.
A 0.05 M solution of 6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1 H-benzo[d]imidazole-4-carbonitrile (124 mg, 0.363 mmol) in dichloromethane (7 mL) at −78° C. was treated with diisobutylaluminum hydride (1 M in tetrahydrofuran, 0.8 mL, 2.2 equiv). After 2 h, acetone (3 mL) was added followed by the addition of a 20% aqueous sodium potassium tartrate solution (5 mL). The mixture was warmed to ambient temperature and then extracted with dichloromethane (3×20 mL). The combined organic layer washed with water, brine and dried (sodium sulfate). The organic layer was evaporated in vacuo and the residue obtained was dissolved in tetrahydrofuran (3 mL) and treated with lithium borohydride (27 mg, 3.4 equiv). After 18 h, acetone (3 mL) was added. After 1 h, the reaction was concentrated. Extractive work up with ethyl acetate (3×20 mL) and water (15 mL) followed by evaporation of the dried (sodium sulfate) organic layer gave the crude product which was purified by preparative HPLC (HPLC method 13). Pooled fractions containing the required product were evaporated in vacuo to give 25 mg (20% yield). 1H-NMR (CD3OD, 500 MHz) δ 9.14 (s, 1H), 8.12 (s, 1H), 7.83 (s, 1H), 5.87 (s, 2H), 5.13 (s, 2H), 3.67 (t, J=7.94 Hz, 2H), 0.95 (t, J=7.94 Hz, 2H), −0.03 (s, 9H); 19F NMR (471 MHz, CD3OD) −63.1, −77.8; LC/MS (HPLC method 7): tR=2.4 min, 347(MH)+.

reactant | 6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1 H-benzo[d]imidazole-4-carbonitrile | 0.363 mmol, 124 mg | FC(C=1C=C(C2=C(N(C=N2)COCC[Si](C)(C)C)C1)C#N)(F)F | C15H18F3N3OSi
reactant | diisobutylaluminum hydride | 1 M, 0.8 mL, 2.2 equiv | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium potassium tartrate | 5 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | lithium borohydride | 27 mg, 3.4 equiv | [BH4-].[Li+]
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | (6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-4-yl)methanol | 20% yield | FC(C=1C=C(C2=C(N(C=N2)COCC[Si](C)(C)C)C1)CO)(F)F | C15H21F3N2O2Si
